*Creado por Javier Petrucci
*Basado en hc_tnomi_nxp.lib
*LTSpice-master -> addon
*Símbolo original: 74hcu04.asy


*GND ------------------------|
*VCC ---------------------|  |
*                         |  |
*OUT ------------------|  |  |
*IN  ---------------|  |  |  |
*                   |  |  |  |
.SUBCKT 74HCU04     2  3  1  0             
X1    2   3  1  0        INV0
.ends

.SUBCKT INV0  2  3  80 90
*IN=2, OUT=3, VCC=80, GND=90
XINP  20  25  50  60    INP0N
XOUTP 25  30  50  60    OUTUN
L1  80  50   6.87NH
L2  60  90   6.87NH
L3   2  20   5.97NH
L4  30   3   5.97NH
C1  50  90   1.5P
C2  60  90   1.5P
C3  20  90   1.5P
C4  3   90   1.5P
.ENDS

.SUBCKT INP0N  2  3  50  60
*IN=2, OUT=3, VCC=50, GND=60
R1  2  3  100
MP1 3 50 50 50  MHCPEN W=20U L=2.4U AD=100P AS=100P PD=40U PS= 20U
MN1 3 60 60 60  MHCNEN W=35U L=2.4U AD=260P AS=260P PD=70U PS= 20U
.ENDS

.SUBCKT OUTUN 2  3  50  60
*IN=2, OUT=3, VCC=50, GND=60
R1  2 4 100
MP1 3 4 50 50  MHCPEN W=485U L=2.4U AD=1200P AS=530P PD=10U PS=180U
MN1 3 4 60 60  MHCNEN W=222U L=2.4U AD=530P AS=300P PD=10U PS=130U
R2  4 5 50
MP2 3 5 50 50  MHCPEN W=485U L=2.4U AD=1200P AS=530P PD=10U PS=180U
MN2 3 5 60 60  MHCNEN W=222U L=2.4U AD=530P AS=300P PD=10U PS=130U
R3  5 6 50
MP3 3 6 50 50  MHCPEN W=485U L=2.4U AD=1200P AS=530P PD=10U PS=180U
MN3 3 6 60 60  MHCNEN W=222U L=2.4U AD=530P AS=300P PD=10U PS=130U
.ENDS


***********************************************
*        NOMINAL P-Channel transistor         *
*           UCB-3 Parameter Set               *
*         HIGH-SPEED CMOS Logic Family        *
*               10-Jan.-1995                  *
***********************************************
.Model MHCPEN PMOS
+LEVEL = 3
+KP    = 22.1E-6
+VTO   = -0.71
+TOX   = 51.5E-9
+NSUB  = 3.3E16
+GAMMA = 0.92
+PHI   = 0.65
+VMAX  = 970E3
+RS    = 80
+RD    = 80
+XJ    = 0.63E-6
+LD    = 0.23E-6
+DELTA = 2.24
+THETA = 0.108
+ETA   = 0.322
+KAPPA = 0.0
+WD    = 0.0

************************************************
*         NOMINAL N-Channel Transistor         *
*            UCB-3 Parameter Set               *
*         HIGH-SPEED CMOS Logic Family         *
*                10-Jan.-1995                  *
************************************************
.Model MHCNEN NMOS
+LEVEL = 3
+KP    = 45.3E-6
+VTO   = 0.72
+TOX   = 51.5E-9
+NSUB  = 2.8E15
+GAMMA = 0.94
+PHI   = 0.65
+VMAX  = 150E3
+RS    = 40
+RD    = 40
+XJ    = 0.11E-6
+LD    = 0.52E-6
+DELTA = 0.315
+THETA = 0.054
+ETA   = 0.025
+KAPPA = 0.0
+WD    = 0.0